US06989451B2
3-Benzylamino-5-phenylamino-isothiazol-4-carbonitrile
Sodium borohydride (4.12 g, 1.09.1 mmol) was added portion wise to a mixture of 3-amino-5-phenylamino-isothiazole-4-carbonitrile (1.57 g, 7.27 mmol), sodium acetate trihydrate (2.97 g, 21.81 mmol) and benzaldehyde (0.74 ml, 7.27 mmol) in acetic acid (2.3 ml), water (9 ml) and ethanol (7 ml) at 0° C. The solution was stirred at ambient temperature for 30 minutes, and then diluted with ethyl acetate (EtOAc) (55 ml). The organic layer was washed with a 10% solution of sodium hydroxide (3×35 ml) and brine (35 ml), dried and evaporated to give an oil, which was purified on silica gel (hexane/EtOAc, 1:1) to afford a solid (1.45 g, 65%).

reactant | Sodium borohydride | 4.12 g | [BH4-].[Na+]
reactant | 3-amino-5-phenylamino-isothiazole-4-carbonitrile | 7.27 mmol, 1.57 g | NC1=NSC(=C1C#N)NC1=CC=CC=C1 | C10H8N4S
reactant | sodium acetate trihydrate | 21.81 mmol, 2.97 g | O.O.O.C(C)(=O)[O-].[Na+]
reactant | benzaldehyde | 7.27 mmol, 0.74 ml | C(C1=CC=CC=C1)=O | C7H6O
solvent | acetic acid | 2.3 ml | C(C)(=O)O | C2H4O2
solvent | water | 9 ml | O | H2O
solvent | ethanol | 7 ml | C(C)O | C2H6O
solvent | ethyl acetate | 55 ml | C(C)(=O)OCC | C4H8O2
product | 3-Benzylamino-5-phenylamino-isothiazol-4-carbonitrile | 1.45 g, 65% | C(C1=CC=CC=C1)NC1=NSC(=C1C#N)NC1=CC=CC=C1 | C17H14N4S
